US07199239B2
Intermediate 48: Ethyl {2-methyl-4-[(propyl{4-[4-(trifluoromethyl)phenyl]pyrimidin-2-yl}amino)methyl]phenoxy}acetate
To a mixture of ethyl {2-methyl-4-[(propylamino)methyl]phenoxy}acetate (652 mg, 2.46 mmol) and N,N-diisopropylethylamine (570 μL, 3.28 mmol) was added 2-(methylsulfonyl)-4-[4-(trifluoromethyl)phenyl]pyrimidine (495 mg, 1.64 mmol) and the resultant mixture heated at 100° C. for 16 h in a reactivial. The cooled reaction mixture was diluted with CH2Cl2 (30 mL), washed with water (20 mL), the aqueous extracted with CH2Cl2 (30 mL) and the CH2Cl2 extracts combined and the solvent removed in vacuo. Purification by Biotage™ chromatography (silica, 90 g) eluted with cyclohexane:EtOAc 10:1 afforded the title compound as a colourless gum (139 mg).

reactant | ethyl {2-methyl-4-[(propylamino)methyl]phenoxy}acetate | 2.46 mmol, 652 mg | CC1=C(OCC(=O)OCC)C=CC(=C1)CNCCC | C15H23NO3
reactant | N,N-diisopropylethylamine | 3.28 mmol, 570 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-(methylsulfonyl)-4-[4-(trifluoromethyl)phenyl]pyrimidine | 1.64 mmol, 495 mg | CS(=O)(=O)C1=NC=CC(=N1)C1=CC=C(C=C1)C(F)(F)F | C12H9F3N2O2S
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | Ethyl {2-methyl-4-[(propyl{4-[4-(trifluoromethyl)phenyl]pyrimidin-2-yl}amino)methyl]phenoxy}acetate | 139 mg | CC1=C(OCC(=O)OCC)C=CC(=C1)CN(C1=NC=CC(=N1)C1=CC=C(C=C1)C(F)(F)F)CCC | C26H28F3N3O3
